US07226917B2
1.2. Phenyl(2-pyrrolidinyl)methanone O-benzyloxime
8 g (20 mmol) of tert-butyl 2-[[(benzoyloxy)imino](phenyl)methyl]-1-pyrrolidinecarboxylate dissolved in 400 ml of a mixture of 30% trifluoroacetic acid in dichloromethane are introduced into a 500 ml round-bottomed flask equipped with a magnetic stirrer, and the mixture is stirred for 4 hours at room temperature. After evaporating the reaction medium to dryness under reduced pressure, the residue is diluted with aqueous ammonia and dichloromethane, and the aqueous phase is separated out and extracted with dichloromethane. After washing the combined organic phases, drying over sodium sulfate and evaporating the solvent under reduced pressure, the residue is purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol.

reactant | tert-butyl 2-[[(benzoyloxy)imino](phenyl)methyl]-1-pyrrolidinecarboxylate | 20 mmol, 8 g | C(C1=CC=CC=C1)(=O)ON=C(C1N(CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C23H26N2O4
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Phenyl(2-pyrrolidinyl)methanone O-benzyloxime | C(C1=CC=CC=C1)ON=C(C1NCCC1)C1=CC=CC=C1 | C18H20N2O
